US04414213
2 -Amino-1-(4,5-dihydro-2-oxoazolyl)-1-butene
A solution of 2-methyl-2-oxazoline (8.5 g; 0.10 mole) in 100 mL dry tetrahydrofuran (THF) was added via syringe to a stirred suspension of freshly prepared lithium diisopropylamide in 50 mL THF. The suspension was kept stirred under a nitrogen atmosphere at -78° C. for an additional hour after the addition was completed. At this point propionitrile (10 mL; 0.14 mole) was added to the stirred suspension which was then allowed to warm to room temperature with continued stirring. The reaction was then quenched with 25 mL saturated NH4Cl solution. The organic layer was separated and washed with water. The water wash was back extracted with ether and the organic portions combined and washed with brine. The organic solution was dried over K2CO3, filtered, and concentrated to 13 g of yellow liquid. Distillation (90°-95° C. at 1 mm Hg) yielded 6.5 g clear liquid as product (70% yield).

reactant | 2-methyl-2-oxazoline | 0.10 mole, 8.5 g | CC=1OCCN1 | C4H7NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | propionitrile | 0.14 mole, 10 mL | C(CC)#N | C3H5N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
product | 2 -Amino-1-(4,5-dihydro-2-oxoazolyl)-1-butene | 6.5 g, 70% yield | NC(=CC1C(NCC1)=O)CC | C8H14N2O
